US06013658
4-((1R)-1-{[(1R)-1-(3-Ethoxycarbonyl-[1,2,4]oxadiazol-5-yl)-2-(2-naphthyl)ethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethylcarbamoyl)piperidine-1-carboxylic acid tert-butyl ester (0.79 g, 1.06 mmol) was dissolved in dioxane (5.5 ml). Water (3 ml) and solid lithium hydroxide (0.03 g) was added. After 18 h at 20° C. the reaction mixture was diluted with water (15 ml) and extracted with tert-butyl-methylether (2×10 ml). The aqueous phase was acidified with 1N aqueous sodium hydrogenphosphate (2.5 ml) and extracted with tert-butyl-methylether (3×40 ml). The collected organic phases were dried (magnesium sulfate) and concentrated in vacuo. The residue was chromatographed on silica (60 g) using a mixture of dichloromethane and 10% ammonia in ethanol (4:1) as eluent to give 0.41 g of 4-(1-{[1-(3-carboxy-[1,2,4]oxadiazol-5-yl)-2-(2-naphthyl)ethyl]-N-methylcarbamoyl}-2-(2-naphthyl)-ethylcarbamoyl)piperidine-1-carboxylic acid tert-butylester.

reactant | 4-((1R)-1-{[(1R)-1-(3-Ethoxycarbonyl-[1,2,4]oxadiazol-5-yl)-2-(2-naphthyl)ethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethylcarbamoyl)piperidine-1-carboxylic acid tert-butyl ester | 1.06 mmol, 0.79 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C1=NC(=NO1)C(=O)OCC)=O)=O | C42H47N5O7
reactant | lithium hydroxide | 0.03 g | [OH-].[Li+]
solvent | dioxane | 5.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 15 ml | O | H2O
solvent | Water | 3 ml | O | H2O
product | 4-(1-{[1-(3-carboxy-[1,2,4]oxadiazol-5-yl)-2-(2-naphthyl)ethyl]-N-methylcarbamoyl}-2-(2-naphthyl)-ethylcarbamoyl)piperidine-1-carboxylic acid tert-butylester | 0.41 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC(CC1=CC2=CC=CC=C2C=C1)C(N(C)C(CC1=CC2=CC=CC=C2C=C1)C1=NC(=NO1)C(=O)O)=O)=O | C40H43N5O7
